US06534657B2
A thoroughly dried, 2-L three-necked, round-bottomed flask was equipped with a mechanical stirrer, a funnel for the addition of air-sensitive solid, and a two-necked adapter holding a thermometer and a gas-inlet tube. The flask is charged with 74.4 g (0.4 mol) of ferrocene, 53.4 mL (0.4 mol) of 2-chlorobenzoyl chloride and 600 mL of CH2Cl2, and the addition funnel contains 56 g (0.42 mol) of AlCl3. The mixture was stirred in an ice bath and AlCl3 was added in small potions at such a rate that the reaction mixture remained below 5° C. This addition took about 20 min. and the mixture was stirred for 30 min. in the ice bath and was stirred for 2 h at rt. The reaction mixture was cooled in an ice bath and 400 ml of water was added. The mixture was loaded to a separatory funnel, the organic layer was separated, and aqueous layer was extracted with 400 mL of CH2Cl2. The combined CH2Cl2 solution are washed with 100 mL of water, 100 mL of 10% NaOH, 100 mL of brine and dried with Na2SO4. After filtration, the solution was evaporated to dryness at reduced pressure to give 129.2 g (>99%) of (2-chlorobenzoyl) ferrocene as a dark red solid.

reactant | ferrocene | 0.4 mol, 74.4 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | 2-chlorobenzoyl chloride | 0.4 mol, 53.4 mL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
reactant | AlCl3 | 0.42 mol, 56 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | water | 400 ml | O | H2O
product | (2-chlorobenzoyl) ferrocene | 129.2 g, >99% | ClC1=C(C(=O)[C-]2C=CC=C2)C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C12H8ClO.C5H5.Fe/c13-11-8-4-3-7-10(11)12(14)9-5-1-2-6-9;1-2-4-5-3-1;/h1-8H;1-5H;/q2*-1;+2
